US06916827B2
1-Ethyl-2-(2-thiazol-2-yl-imidazol-1-ylmethyl)-1H-imidazo[4,5-c]pyridine
The title compound is prepared from N4-ethyl-pyridine-3,4-diamine and (2-thiazol-2-yl-imidazol-1-yl)-acetic acid methyl ester following the procedure given in Example 8. 1H NMR (CDCl3) δ 9.08 (s, 1 H), 8.43 (d, 1 H), 7.85 (d, 1 H), 7.38 (d, 1 H), 7.38-7.26 (m, 1 H), 7.17 (s, 1 H), 7.14 (s, 1 H), 6.35 (s, 2 H), 4.25 (q, 2 H), 1.11 (t, 3 H). Electrospray MS: m/z 311 [M+1]

reactant | N4-ethyl-pyridine-3,4-diamine | C(C)NC1=C(C=NC=C1)N | C7H11N3
reactant | (2-thiazol-2-yl-imidazol-1-yl)-acetic acid methyl ester | COC(CN1C(=NC=C1)C=1SC=CN1)=O | C9H9N3O2S
product | 1-Ethyl-2-(2-thiazol-2-yl-imidazol-1-ylmethyl)-1H-imidazo[4,5-c]pyridine | C(C)N1C(=NC=2C=NC=CC21)CN2C(=NC=C2)C=2SC=CN2 | C15H14N6S
